US05068371
Bis(cyclopentadienyl)bis[2,6-difluoro-3-(3-(1H-pyrr-1-yl)propyl)phenyl]titanium
Analogously to Example 19, 2.5 g (0.010 mol) of bis(cyclopentadienyl)titanium dichloride and 4.9 g (0.022 mol) of 1-[3-(2,4-difluorophenyl)propyl]-1H-pyrrole are reacted with 0.022 mol of lithium diisopropylamide solution. The brown-orange oil is purified by means of flash chromatography using hexane/ethyl acetate (9:1) as solvent. 2.3 g of an orange glassy resin are obtained.

reactant | bis(cyclopentadienyl)titanium dichloride | 0.010 mol, 2.5 g | [Cl-].[Cl-].C1(C=CC=C1)[Ti+2]C1C=CC=C1
reactant | 1-[3-(2,4-difluorophenyl)propyl]-1H-pyrrole | 0.022 mol, 4.9 g | FC1=C(C=CC(=C1)F)CCCN1C=CC=C1 | C13H13F2N
reactant | lithium diisopropylamide | 0.022 mol | C(C)(C)[N-]C(C)C.[Li+]
product | Bis(cyclopentadienyl)bis[2,6-difluoro-3-(3-(1H-pyrr-1-yl)propyl)phenyl]titanium | 2.3 g | C1(C=CC=C1)[Ti](C1=C(C(=CC=C1F)CCCN1C=CC=C1)F)(C1=C(C(=CC=C1F)CCCN1C=CC=C1)F)C1C=CC=C1 | InChI=1S/2C13H12F2N.2C5H5.Ti/c2*14-12-6-5-11(13(15)10-12)4-3-9-16-7-1-2-8-16;2*1-2-4-5-3-1;/h2*1-2,5-8H,3-4,9H2;2*1-5H;
